Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
lactose
 
Attending: ___
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old woman with a past medical history of HER2+
breast cancer (mets to brain and lung), T2DM, HTN, HFrEF, no
known seizure history who presents from hospice (___ with seizure like activity atarting at 21:40 on
___. This was preceded by one episode of vomiting after dinner
and subsequent fever to ___ F. The exact semiology of her
seizures are not specified in hospice paperwork. ___ 
facility
first opted to monitor for resolution, but after a few hours
brought to ED since did not subside. On arrival to ___, she 
had
lip smacking, right arm/leg twitching and right gaze deviation.
Received 4 mg IV Ativan and 2 mg IM Ativan with improvement. Was
persistently febrile to 101.8 and placed on empiric meningitic
and abdominal coverage (amp/cefe/vanc/flagyl), bloused 1L fluid.

On evaluation by Neurology, patient had very brief left arm, lip
and eye twitching. Patient was nonverbal and unable to follow
commands. Review of systems was unable to be obtained.

Patient's son/HCP was called to review goals of care and plan 
for
workup given hospice residence and DNR/DNI code status. He 
firmly
prefers symptomatic seizure treatment for comfort and does not
wish to perform any additional testing (including LP, EEG, MRI,
long course of antibiotics). 
 
Past Medical History:
HER2+ breast cancer, mets to brain and lung
T2DM
HTN
HFrEF
Dementia, unspecified
 
Social History:
___
Family History:
Of her seven siblings, one brother died with kidney
problems. One sister is on hemodialysis. One sister is healthy.
One brother is in a nursing home after a stroke. Her mother died
at ___ with a brain hemorrhage. Her father is ___ and doing well.
 
Physical Exam:
Admission PHYSICAL EXAMINATION:
Vitals: T 101.8 HR 104-117 BP 138/78 RR 28 97% Non-Rebreather 
-->
99% 3L NC
General: eyes closed, appears comfortable
HEENT: eye lids and lips twitching intermittently, NC/AT, no
scleral icterus noted, MMM, no lesions noted in oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: sinus tachycardia, no RMG
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: eyes closed, open briefly to firm sternal rub.
does not follow commands. 
-Cranial Nerves: PERRL 3 to 2mm and brisk. No nystagmus. Does 
not
track. No gaze preference. Does not blink to threat. No facial
droop.
-Motor: normal bulk and tone. Arms antigravity. Legs move 
briefly
in plane of bed.
-Sensory: Withdraws to noxious RUE, otherwise very latent
withdrawal to noxious in other extremities.
-DTR: none elicited. Plantar response flexor bilaterally.
-Coordination: unable to test
-Gait: deferred

======================
DISCHARGE EXAM:
General: elderly woman lying in bed, unresponsive. 
HEENT: NC/AT
Cardiac: warm, well-perfused
Pulmonary: no increased work of breathing
Abdomen: soft, ND
Extremities: wwp, no C/C/E bilaterally
Skin: no rashes or lesions noted.  
Neurologic: 
- Mental status: asleep, not arousable. No commands. 

- Cranial Nerves: PERRL ___ b/l. Eyes dysconjugate. Small
roving eye movements occasionally. No BTT. No facial droop

- Motor:  Increased tone in b/l upper extremities
RUE - no withdrawal to noxious
LUE - no withdrawal to noxious. Intermittent twitching
RLL - TF
LLL - TF

- Sensory: no grimace to noxious
- Reflexes: deferred
- Coordination: unable to assess
- Gait: unable to assess
 
Pertinent Results:
___ 11:42PM BLOOD WBC-8.1 RBC-4.01 Hgb-12.9 Hct-40.0 
MCV-100* MCH-32.2* MCHC-32.3 RDW-12.0 RDWSD-43.9 Plt ___
___ 11:42PM BLOOD Neuts-81.3* Lymphs-10.9* Monos-5.6 
Eos-1.1 Baso-0.6 Im ___ AbsNeut-6.55* AbsLymp-0.88* 
AbsMono-0.45 AbsEos-0.09 AbsBaso-0.05
___ 11:42PM BLOOD ___ PTT-30.0 ___
___ 11:42PM BLOOD Glucose-155* UreaN-8 Creat-0.7 Na-142 
K-4.3 Cl-102 HCO3-25 AnGap-15
___ 11:42PM BLOOD ALT-13 AST-24 AlkPhos-76 TotBili-0.5
___ 11:42PM BLOOD Lipase-17
___ 11:42PM BLOOD cTropnT-<0.01
___ 11:42PM BLOOD Albumin-4.0 Calcium-10.2 Phos-2.7 Mg-1.6

CT head
IMPRESSION:  
1.  Left temporal lobe lesion with surrounding vasogenic edema 
worrisome for a metastasis. 
2.  right occipital lobe lesion also worried some for 
metastasis. 
3.  diffuse white matter hypodensity perhaps treatment related. 

 
Brief Hospital Course:
___ is a ___ with breast cancer with CNS mets who presents 
with increased seizures in the setting of UTI. 

She was placed on cvEEG monitoring and was noted to have many 
___ seizures) per hour. Clinically, these were noted to 
correlate with left face and left arm twitching. Her Keppra was 
increased to 1500mg BID and she was started on Vimpat 150mg BID. 
However, given the fact that her skilled nursing facility cannot 
give IV AEDs, she was ultimately switched to sublingual Ativan 
1.5mg every 6h. Her cvEEG showed reduction in electrographical 
seizures after initiation of Ativan. 

We spoke at length with the son about the balance between 
controlling her seizures and having her be more awake. 
Ultimately, the son favored better seizure control and more 
somnolence as he felt this was more in line with ___ 
wishes. 

Etiology of increased seizures was though to most likely be 
multifactorial in the setting of a UTI, recently discontinued 
zonisamide (unclear reasons) and interval progression of her 
known intracranial metastases. 

Her UTI was initially treated with ceftriaxone and then was 
switched to ampicillin when it grew enterococcus. Sensitivities 
returned and the enterococcus is ampicillin sensitive. She 
should continue Ampicillin for an additional 5 days. 

Palliative care was involved in her care during this 
hospitalization. The family would like to continue IV 
antibiotics and IV hydration until more distant family members 
can come see her. 

TRANSITIONAL ISSUES:
- please obtain concentrated liquid Ativan to use. She was using 
sublingual Ativan while admitted, but occasionally struggled 
with the sublingual tabs. 
- She will likely continue to have seizures after discharge. 
These can be treated with concentrated liquid Ativan 1mg as 
needed every 4 hours. This can be given in addition to her 
standing Ativan. Alternatively, her standing Ativan can be 
increased to 2mg every 6 hours. Again, the goal is not seizure 
freedom, but seizure reduction.
- In discussions with palliative care, the family has decided to 
continue IV antibiotics and IV hydration for the time being 
until other family members are able to come to ___ to see 
___.
- Please continue IV ampicillin for another 5 days for UTI 
treatment. 
 
Medications on Admission:
**Hospice**
Tylenol ___ mg TID
trazodone 25 mg BID
latanoprost 0.005% 1 drop R eye QHS
Morphine sulfate 20 mg/ml PRN pain
Ativan 2 mg/ml PRN pain, anxiety
Milk of magnesia
Polyethylene glycol
Biscodyl
 
Discharge Medications:
1.  Ampicillin 500 mg IV Q6H  
2.  LORazepam Oral Solution 1 mg PO Q4H:PRN seizure > 5 min  
3.  LORazepam Oral Solution 1.5 mg PO Q6H  
4.  Scopolamine Patch 1 PTCH TD ONCE secretions Duration: 72 
Hours  

 
Discharge Disposition:
Expired
 
Facility:
___
 
Discharge Diagnosis:
Seizures
Urinary tract infection

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic and not arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital with seizures and a urinary 
tract infection. You are currently being treated with IV 
antibiotics for the infection. We changed your seizure 
medication to help with the seizures.

It was a pleasure caring for you.

Sincerely,
___ Neurology
 
Followup Instructions:
___